US05703109
1-[1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-propenyl]-1H-imidazole
Imidazole (0.55 g, 8 mmol) is dissolved in dry tetrahydrofaran. The solution is cooled on icebath and SOCl2 (0.16 ml, 2 mmol) is added dropwise to the cooled solution. The mixture is stirred for 10 min. 1-(4-cyanophenyI)-3-(4-fluorophenyl)-1-propanone (0.34 g, 1.3 mmol) is added and the mixture is stirred in room temperature for 4 days. Methylene chloride is added and the mixture is washed with water. The organic layer is dried and the solvent is evaporated. The residue contains 35% of the product (1H NMR) as a 9:1 mixture of the isomers. The product is purified by flash chromatography (eluent CH2Cl2 -MeOH 99:1).

reactant | Imidazole | 8 mmol, 0.55 g | N1C=NC=C1 | C3H4N2
reactant | SOCl2 | 2 mmol, 0.16 ml | O=S(Cl)Cl | Cl2OS
reactant | 1-(4-cyanophenyI)-3-(4-fluorophenyl)-1-propanone | 1.3 mmol, 0.34 g | C(#N)C1=CC=C(C=C1)C(CCC1=CC=C(C=C1)F)=O | C16H12FNO
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-propenyl]-1H-imidazole | C(#N)C1=CC=C(C=C1)C(=CCC1=CC=C(C=C1)F)N1C=NC=C1 | C19H14FN3
